### ISSUE TITLE
simp doesn't rewrite because of unassigned metavariables

### ISSUE THREAD

**Issue by fpvandoorn** [leanprover/lean4#4398]
### Prerequisites

Please put an X between the brackets as you perform the following steps:

* [x] Check that your issue is not already filed:
      https://github.com/leanprover/lean4/issues
* [x] Reduce the issue to a minimal, self-contained, reproducible test case.
      Avoid dependencies to Mathlib or Batteries.
* [x] Test your test case against the latest nightly release, for example on
      https://live.lean-lang.org/#project=lean-nightly
      (You can also use the settings there to switch to “Lean nightly”)

### Description

The following code fails:
```lean
set_option trace.Meta.Tactic.simp true
example {ι : Type _} (n m : ι) (h : n = m) : m = n := by
  simp only [id h] -- no progress
  simp only [h] -- works
```
The trace message is
```
[Meta.Tactic.simp.rewrite] id h:1000, has unassigned metavariables after unification 
```
Note that the unassigned metavariable is the universe metavariable of `ι`

**Expected behavior:** `simp only [id h]` should succeed, just like `simp only [h]` already does.

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.

**Comment by fpvandoorn** [comment]
While I think this was a good fix, I don't think my underlying issue was actually solved by this fix. 
The following example still fails on the nightly release:
```lean
set_option trace.Meta.Tactic.simp true
def foo {ι : Type _} (n m : ι) (h h' : n = m) : ℕ := by
  simp only [id h] at h' -- no progress
  simp only [h] at h' -- works
```
This is an artificial example, but it frequently happens that as part of a definition you have to prove some proposition, so there can be (universe) metavariables around.

Note: this is a low priority issue. It only rarely affects me.

Can you reopen this, or do you prefer that I create a new issue? (I edited the first post, in case you reopen this.)
